US07531545B2
To a stirred solution of N-phthaloylglycine (11.92 g, 58 mmol) in dichloromethane (200 mL) at room temperature, oxalyl chloride (7.5 mL, 87 mmol) was added. To the reaction mixture was then added DMF (two drops). The reaction mixture was concentrated after stirring four hours at room temperature. Dichloromethane (100 mL, dry) was added; then benzylamine (9.5 mL, 87 mmol) was added slowly into the solution, followed by addition of triethylamine (12 mL, 87 mmol), slowly into the solution. Dichloromethane (200 mL) and methanol (50 mL) were then added, 30 min. after the completed addition of triethylamine. The reaction mixture was extracted with 2N HCl solution twice, 1N NaOH solution one time, and 1N HCl one time, then dried over MgSO4. The solution was filtered and concentrated to yield N-benzyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide as a white solid.

reactant | N-phthaloylglycine | 58 mmol, 11.92 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | oxalyl chloride | 87 mmol, 7.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzylamine | 87 mmol, 9.5 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | DMF | two drops | CN(C)C=O | C3H7NO
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
solvent | triethylamine | 87 mmol, 12 mL | C(C)N(CC)CC | C6H15N
product | N-benzyl-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | C(C1=CC=CC=C1)NC(CN1C(C2=CC=CC=C2C1=O)=O)=O | C17H14N2O3
